US07268232B2
4-(8-Oxo-1,5,6,8-tetrahydro-2H,4H-1,5-methanopyrido[1,2-a][1,5]diazocin-3-yl)naphthalene-1-carbonitrile (196MBT2-10)
The title compound (3 mg, 8% yield) was prepared as described for 196MBT2-4 from 1-cyano-4-fluoronaphthalene (20 mg, 0.117 mmol) and 8-oxo-1,5,6,8-tetrahydro-2H,4H-1,5-methanopyrido[1,2-a][1,5]diazocine (89 mg, 0.468 mmol).

reactant | 1-cyano-4-fluoronaphthalene | 0.117 mmol, 20 mg | C(#N)C1=CC=C(C2=CC=CC=C12)F | C11H6FN
reactant | 8-oxo-1,5,6,8-tetrahydro-2H,4H-1,5-methanopyrido[1,2-a][1,5]diazocine | 0.468 mmol, 89 mg | O=C1C=CC=C2N1CC1CNCC2C1 | C11H14N2O
product | 4-(8-Oxo-1,5,6,8-tetrahydro-2H,4H-1,5-methanopyrido[1,2-a][1,5]diazocin-3-yl)naphthalene-1-carbonitrile | 3 mg, 8% yield | O=C1C=CC=C2N1CC1CN(CC2C1)C1=CC=C(C2=CC=CC=C12)C#N | C22H19N3O
